US06756382B2
Using the general method of Example 197, 1-(4-aminobutyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine (1.00 g, 3.7 mmol) was reacted with cyclohexanecarbonyl chloride (0.55 mL, 4.1 mmol) to provide 1.07 g of N-[4-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]cyclohexanecarboxamide as an off white solid, m.p. 191.6-192.6° C. Analysis: Calculated for C22H29N5O.0.25 H2O: % C, 68.81; % H, 7.74; % N, 18.24. Found: % C, 68.85; % H, 7.75; % N, 17.95.

reactant | 1-(4-aminobutyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 3.7 mmol, 1.00 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | C15H19N5
reactant | cyclohexanecarbonyl chloride | 4.1 mmol, 0.55 mL | C1(CCCCC1)C(=O)Cl | C7H11ClO
product | N-[4-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]cyclohexanecarboxamide | 1.07 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(=O)C2CCCCC2)C | C22H29N5O
